US08304446B2
4-(Methyloxy)-1H-indazol-3-amine
A mixture of 2-fluoro-6-(methyloxy)benzonitrile (available from Apollo) (10 g, 66 mmol) and hydrazine hydrate (9.63 mL, 198 mmol) in n-butanol (100 mL) was heated at reflux under nitrogen for 18 hours. The reaction mixture was allowed to cool, water (300 mL) was added, and the organic phase was removed. The solid in the aqueous phase was collected by filtration and dried in vacuo at 40° C. to give a white solid (0.6 g). The butanol phase was evaporated in vacuo, and the residue and the aqueous mother liquors were combined and extracted using ethyl acetate (2×200 mL). The combined ethyl acetate extractions were dried over magnesium sulphate and evaporated in vacuo. The residue was dissolved in DCM and applied to a 100 g silica cartridge. This was eluted with cyclohexane (500 ml), cyclohexane-ethyl acetate (1:1 v/v, 500 mL) and ethyl acetate (500 mL). The required fractions were combined and evaporated in vacuo to give the title compound (9.92 g, 92%) as an off-white solid. LCMS (System A) RT=0.5 min, ES+ve m/z 164 (M+H)+.

reactant | 2-fluoro-6-(methyloxy)benzonitrile | 66 mmol, 10 g | FC1=C(C#N)C(=CC=C1)OC | C8H6FNO
reactant | hydrazine hydrate | 198 mmol, 9.63 mL | O.NN
reactant | water | 300 mL | O | H2O
reactant | n-butanol | 100 mL | C(CCC)O | C4H10O
product | 4-(Methyloxy)-1H-indazol-3-amine | 0.6 g | COC1=C2C(=NNC2=CC=C1)N | C8H9N3O
